US08648099B2
b) 6-Cyclobutoxy-5-furan-2-yl-nicotinic acid N′-(4-fluoro-phenyl)-hydrazide
In a 5 mL round-bottomed flask the above prepared 6-cyclobutoxy-5-furan-2-yl-nicotinic acid (0.050 g, 174 μmol, Eq: 1.00) was combined with THF (2 mL) to give a colorless solution. TBTU (83.6 mg, 260 μmol, Eq: 1.5) and N,N-diisopropylamine (112 mg, 152 μL, 868 μmol, Eq: 5) were added. The reaction mixture was stirred for 10 min at RT before (4-fluorophenyl)-hydrazine hydrochloride (33.9 mg, 208 μmol, Eq: 1.2) was added and the reaction allowed to proceed at RT overnight. The mixture was poured into 15 mL 1 M HCl and extracted with EtOAc (2×25 mL). The organic layers were combined, washed with 1 M NaOH, dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 10 g, 15% to 50% EtOAc in heptane) to yield 40 mg of the title compound as white solid; MS (EI) 368.4 (M+H)+.

reactant | 6-cyclobutoxy-5-furan-2-yl-nicotinic acid | 174 μmol, 0.050 g | C1(CCC1)OC1=NC=C(C(=O)O)C=C1C=1OC=CC1 | C14H13NO4
reactant | TBTU | 260 μmol, 83.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylamine | 868 μmol, 152 μL, 112 mg | C(C)(C)NC(C)C | C6H15N
reactant | (4-fluorophenyl)-hydrazine hydrochloride | 208 μmol, 33.9 mg | Cl.FC1=CC=C(C=C1)NN
reactant | HCl | 1 M, 15 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-Cyclobutoxy-5-furan-2-yl-nicotinic acid N′-(4-fluoro-phenyl)-hydrazide | 40 mg | FC1=CC=C(C=C1)NNC(C1=CN=C(C(=C1)C=1OC=CC1)OC1CCC1)=O | C20H18FN3O3
